US04812164
A suspension of 1.90 g of 2-chloro-4-fluoro-5-[2-methoxy-6 -oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoic acid in 10 ml of benzene and 1.85 g of thionyl chloride is heated for 4 hours while stirring until a solution forms. The reaction mixture is evaporated to dryness under reduced pressure, the residue is dissolved in 20 ml of methylene chloride and the solution is treated at room temperature with 5 ml of n-butanol and 0.50 g of pyridine while stirring. The reaction mixture is stirred for 3 hours and evaporated to dryness under reduced pressure. The residue is dissolved in 100 ml of ethyl acetate, the solution is washed three times with 50 ml of water each time, the organic phase is dried over anhydrous sodium sulphate and evaporated to dryness. The resinous residue is purified by chromatography on silica gel using diethyl ether/n-hexane (1:3) as the eluent. There is obtained n-butyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoate. 1H-NMR (CDCl3 : 400 MHz): 7.84 ppm (d,1H), 7.40 ppm (d,1H), 6.63 ppm (s,1H), 4.34 ppm (m,2H), 4.02 ppm (s,3H), 1.75 ppm (m,2H), 1.46 ppm (m,2H), 0.97 ppm (t,3H),

reactant | 2-chloro-4-fluoro-5-[2-methoxy-6 -oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoic acid | 1.90 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C13H7ClF4N2O4
reactant | thionyl chloride | 1.85 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | n-butyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OCCCC)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C17H15ClF4N2O4
